US06017467
To a solution of 25 mmol of 1-(2-fluoro-4-dimethylbutylsilyloxyphenyl)-2-iodoethyne in 50 ml of tetrahydrofuran were added copper cyanide and lithium bromide and the solution was reacted under reflux heating for 3 hours. After completion of the reaction, the solution was poured into a hydrochloric acid solution of ferric chloride and extracted with toluene. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford 20 mmol of 2-fluoro-4-hydroxyphenylpropiolonitrile as a colourless solid.

reactant | 1-(2-fluoro-4-dimethylbutylsilyloxyphenyl)-2-iodoethyne | 25 mmol | FC1=C(C=CC(=C1)O[SiH2]C(CCC)(C)C)C#CI | C14H18FIOSi
reactant | copper cyanide | [Cu](C#N)C#N
reactant | lithium bromide | [Br-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-fluoro-4-hydroxyphenylpropiolonitrile | 20 mmol | FC1=C(C=CC(=C1)O)C#CC#N | C9H4FNO
